US04451484
Using the extreme-dilution technique described by Hedden and Brown, J. Am. Chem. Soc., 75, 3744-48 (1953), 4-(3-chloro-[1,1'-biphenyl]-2-yl)butanoic acid chloride (18.9 g, 0.069 mole) was diluted in carbon disulfide (100 ml) and placed in the dropping funnel. The dilution flask was filled with carbon disulfide (approximately 700 ml). Aluminum chloride (19.8 g, 0.15 mole) in carbon disulfide (700 ml) was placed in the reaction flask and heated at reflux. The contents of the dropping funnel were added to the reaction during an eight day period. After complete addition the contents of the dilution flask were added to the reaction flask and the mixture allowed to stir at room temperature for approximately 18 hours. One liter of 2 N hydrochloric acid was added to the mixture and the total stirred for 0.5 hour. The mixture was poured into a separatory funnel and the organic phase separated. The remaining aqueous phase was saturated with sodium chloride and extracted with methylene chloride (3×250 ml). The organic phase and extracts were combined, dried over anhydrous magnesium sulfate, filtered and the filtrate evaporated under reduced pressure to yield an oil. The oil was subjected to column chromatography on silica gel eluted with toluene:methylene chloride (1:1). The fractions which contained the desired product were combined and evaporated under reduced pressure to give a solid. The solid was recrystallized from methylcyclohexane:n-heptane (30:70) to yield 9-chloro-5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-5-one (m.p. 117.5°-118.5°). The solvent was evaporated from the mother liquor to give an oil. This oil was subjected to column chromatography on silica gel eluted with n-heptane:ethyl acetate (40:1). The fractions which contained the desired product were combined and evaporated under reduced pressure to give additional product.

reactant | 4-(3-chloro-[1,1'-biphenyl]-2-yl)butanoic acid chloride | 0.069 mole, 18.9 g | ClC=1C(=C(C=CC1)C1=CC=CC=C1)CCCC(=O)Cl | C16H14Cl2O
reactant | Aluminum chloride | 0.15 mole, 19.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 2 N, One liter | Cl | ClH
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
solvent | carbon disulfide | 700 ml | C(=S)=S | CS2
solvent | carbon disulfide | approximately 700 ml | C(=S)=S | CS2
product | 9-chloro-5,6,7,8-tetrahydrodibenzo[a,c]cycloocten-5-one | ClC1=CC=CC=2C3=C(C(CCCC21)=O)C=CC=C3 | C16H13ClO
